US08110689B2
Chromic oxide (IV) (0.41 g) was added to a solution of 4-(3,5-bis-trifluoromethyl-benzyl)-2-methylnitrobenzene (0.3 g) in acetic acid (10 ml) and stirred at room temperature for 1 hour. After the reaction, the reaction solution was extracted with ethyl acetate and washed with water, a saturated sodium bicarbonate solution and a saturated salt solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off and the residue was purified by silica gel column chromatography to obtain 3′,5′-bis-trifluoromethyl-3-methyl-4-nitrobenzophenone (0.3 g).

reactant | 4-(3,5-bis-trifluoromethyl-benzyl)-2-methylnitrobenzene | 0.3 g | FC(C=1C=C(CC2=CC(=C(C=C2)[N+](=O)[O-])C)C=C(C1)C(F)(F)F)(F)F | C16H11F6NO2
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3′,5′-bis-trifluoromethyl-3-methyl-4-nitrobenzophenone | 0.3 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C1=CC(=C(C=C1)[N+](=O)[O-])C)=O)(F)F | C16H9F6NO3
